Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Heparin Agents
 
Attending: ___.
 
Chief Complaint:
Profound weakness in upper extremities; Central cord syndrome
 
Major Surgical or Invasive Procedure:
Posterior cervical decompression laminectomy C3-6 on ___ by 
Dr. ___

 
History of Present Illness:
Pt is a ___ year old male who was transferred to ___ on ___ 
from ___ after sustaining a cervical spinal cord 
injury on ___.  The pt was reported to be in shallow water 
when he was hit by a wave and fell hitting his neck. He 
immediately was not able to move his arms or legs. He was 
rescued from the water and brought to the local hospital where 
IV steroids and vasopressor therapy were instituted. Sensation 
and movement began to return to his lower extremities and he 
slowly developed some return of strength into his distal upper 
extremities. Paresthesia are present in all extremities. There 
has been associated autonomic dysfunction. He has had problems 
with ileus formation, orthostatic hypotension requiring Florinef 
therapy, and paroxysmal sweating. After pt stabilized he was air 
transferred to ___ to be treated closer to his family and 
support systems.
 
Past Medical History:
Hypertension, Hyperlipidemia
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
On Admission: In NAD. Awake, alert, attentive. Good historian. 
Speech is fluent with no phonetic or semantic paraphrasing. 
Stream of thoughts is fluid. Toungue is midline without 
fasciculations.  PERRLA, 4mm to 2mm with light. EOM's full. No 
nystagmus. Facial sensation intact, facial strength full. Motor: 
 Normal bulk. Normal tone. No pronator drift.

       Delt  Tri  Bi  WE  WR  FE  FF  IP  QD  HAM     DF  PF  
___  ___
       C5    C7   C6              C8  L2  L3  L4/S1   L4      L5 
  L5

RT:    0     2    0   4   4+  4   4+  4+      5     ___    
5
Left:  0     2    0   4   4+  4   4+  4+     5       ___   
 5

Sensation: Varied loss pinprick and tempurature in the arms and 
legs that do not fit nicely into a distinct dermatomal pattern. 

DTR's are absent throughout both upper extremities. Rt Pat-2 
Rt-AC-1; Lt Pat-3 Lt-AC-3. Toes are upgoing bilaterally.
On Discharge:

Posterior cervical incision is well approximated with patent 
surgical staples which will be due for removal in ___ days 
following surgery.There is no drainage, edema, or erythema 
noted.
 
      Delt  Tri  Bi  WE  WR  FE  FF  IP  QD  HAM     DF  ___  ___ 
 ___
       C5    C7   C6              C8  L2  L3  L4/S1   L4      L5 
  L5

RT:    0     2+    ___  4   4+  5     5     ___    
5
Left:  0     2+    0   4   4+  4   4+  5     5       ___   
 5

Sensation is decreased in the Left upper extremity, mostly in 
the C5/C6 distribution.

 
Pertinent Results:
___ 04:00AM   GLUCOSE-88 UREA N-19 CREAT-0.8 SODIUM-136 
POTASSIUM-4.9 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13 
Calcium-8.4,Mg-2.4
___ 04:19AM   WBC-8.6 RBC-4.39* HGB-13.9* HCT-38.2* MCV-87 
MCH-31.7 MCHC-36.5* RDW-14.7 PLT count-241

STANDING CERVICAL XRAYS:
CERVICAL SPINE, AP, LATERAL AND SWIMMER'S VIEWS: Patient is 
status post 
posterior cervical fusion with two spinal rods and pedicle 
screws at C2 and 
C4-C7 on the left and C2-C7 on the right. Overall alignment is 
similar to the 
prior study. As before there are extensive degenerative changes 
at multiple 
levels predominating in the lower cervical spine including disc 
space 
narrowing, endplate irregularities and marginal osteophyte 
formation. There 
are skin staples along the posterior neck. Mild prevertebral 
soft tissue 
swelling persists. 
IMPRESSION: Status post cervical fusion from C2-C7 without 
evidence of 
hardware loosening or other complication. 

___ 12:55PM BLOOD WBC-12.1* RBC-3.60* Hgb-11.6* Hct-31.8* 
MCV-88 MCH-32.2* MCHC-36.5* RDW-14.7 Plt ___
___ 05:00AM BLOOD WBC-7.0 RBC-3.84* Hgb-11.9* Hct-34.2* 
MCV-89 MCH-31.1 MCHC-35.0 RDW-15.1 Plt Ct-61*
___ 05:00AM BLOOD WBC-7.5 RBC-3.76* Hgb-11.5* Hct-33.4* 
MCV-89 MCH-30.7 MCHC-34.5 RDW-15.1 Plt Ct-35*
___ 03:40PM BLOOD WBC-8.3 RBC-4.02* Hgb-12.8* Hct-35.7* 
MCV-89 MCH-31.8 MCHC-35.9* RDW-15.3 Plt Ct-38
___ 05:10AM BLOOD WBC-7.3 RBC-3.95* Hgb-12.1* Hct-35.0* 
MCV-89 MCH-30.5 MCHC-34.5 RDW-15.1 Plt Ct-35*
___ 06:05AM BLOOD WBC-8.5 RBC-3.57* Hgb-11.7* Hct-31.8* 
MCV-89 MCH-32.6* MCHC-36.6* RDW-15.0 Plt Ct-38*
___ 05:10AM BLOOD WBC-7.2 RBC-3.80* Hgb-11.7* Hct-33.3* 
MCV-88 MCH-30.8 MCHC-35.2* RDW-14.9 Plt Ct-63*
___ 05:10AM BLOOD ___ PTT-66.2* ___

DROP IN PLATELET COUNT SUSPICIOUS FOR HIT, HIT ANTIBODY SENT, 
RESULTS *****POSITIVE*****

 
Brief Hospital Course:
On ___ the patient went to the O.R. for posterior cervical 
decompression laminectomy C3-7 with C2-7 fusion by Dr. ___ 
___. There were no perioperative complications to report. 
___ and Autonomic Neurology have been consulted and 
recommendations instituted. When OOB he wears an abdominal 
binder and his bowel function has improved. The patient had 
difficulty with voiding so his foley was reinserted ___. On 
___ a drop in platlets was noted and his SC Hep was 
discontinued and HIT anitbody sent to lab. It was grossly 
positive and Argatroban gtt was started along with Hematology 
consult. His Platlets began to trend up and he was cleared to go 
to rehab. The patient's strength has been improving. He 
continues to maintain a positive outlook and is fully 
participatory in his post surgical care. His staples were 
removed and his incision is C/D/IHe is eager to begin the next 
phase of his rehabilitation. The patient will be discharged to 
rehab. 
 
Medications on Admission:
Florinef, Colace, Effexor, Protonix, Lovenox
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Venlafaxine 25 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day).  
3. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical TID 
(3 times a day) as needed for armpit rash.  
5. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
6. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily): ___ give 
suppository or PO.  
10. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) for 8 days.  
11. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO 30 min after ___ meal.  
12. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.  
13. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  
14. Argatroban 100 mg/mL Solution Sig: 0.5-2 mcg/kg/min 
Intravenous INFUSION (continuous infusion): Please titrate to 
aPTT 60-80secs

**Currently at 2.5mcg/kg for 24hr***.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Central cord Syndrome
Urinary retention
Heparin Induced Thrombocytopenia

 
Discharge Condition:
Stable

 
Discharge Instructions:
•Do not smoke.
•Keep your wound clean / No tub baths or pool swimming until 
seen in follow up.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Have your incision checked daily for signs of infection.
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort.
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc. for 3 months.
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

•Pain that is continually increasing or not relieved by pain 
medicine.
•Any weakness, numbness, tingling in your extremities.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, and drainage.
•Fever greater than or equal to 101° F. 
•Any change in your bowel or bladder habits (such as loss of 
bowl or urine control).
. You will be going to rehab with your foley catheter, you will 
follow up with your urologist for further follow up and 
treatment.
 
Followup Instructions:
___